US04728655
N-p-bromobenzene-sulphonyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]formamidine
To the crude product composed by ethyl N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]formimidate, 7.7 g of p-bromobenzenesulfonamide in 50 ml of methanol are dropwise added under stirring and at room temperature. The mixture is kept under stirring for 1 hour at room temperature, the solvent is removed by distillation under reduced pressure, and the obtained residue is purified by 60-silica gel column chromatography. 14.0 g of N-p-bromobenzene-sulphonyl-N'-[3-[3-(1-pipidinylmethyl)phenoxy]propyl]formamidine.

reactant | ethyl N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]formimidate | N1(CCCCC1)CC=1C=C(OCCCN=COCC)C=CC1 | C18H28N2O2
reactant | p-bromobenzenesulfonamide | 7.7 g | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
solvent | methanol | 50 ml | CO | CH4O
product | N-p-bromobenzene-sulphonyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]formamidine | BrC1=CC=C(C=C1)S(=O)(=O)NC=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C22H28BrN3O3S
